US06028195
1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine
Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2-methoxyphenyl)piperazine were reacted by the same way with the example 46 to obtain the titled compound.

reactant | Phenyl N-(5-acetyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=O | C16H16N2O4
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(2-methoxyphenyl)piperazine | yield: 79% | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C21H26N4O4
